US04863920
3.73 g (10 mmol) of 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was heated to boiling under reflux for 3 hours with 1.30 g (12.5 mmol) of ethynyltrimethylsilane, 70 mg of bis-(triphenylphosphine)-palladium(II) dichloride and 10 mg of copper(I) iodide in 30 ml of diethylamine. The reaction mixture was evaporated and the residue was chromatographed on silica gel while eluting with ethyl acetate/hexane (1:1). After crystallization from ethyl acetate and hexane there was obtained 7-chloro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 186°-187°.

reactant | 7-chloro-4,5-dihydro-3-iodo-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 3.73 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1I)C)=O | C12H9ClIN3O
reactant | ethynyltrimethylsilane | 12.5 mmol, 1.30 g | C(#C)[Si](C)(C)C | C5H10Si
solvent | diethylamine | 30 ml | C(C)NCC | C4H11N
catalyst | bis-(triphenylphosphine)-palladium(II) dichloride | 70 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 10 mg | [Cu]I
product | 7-chloro-4,5-dihydro-5-methyl-3-[(trimethylsilyl)ethynyl]-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C[Si](C)(C)C)C)=O | C17H18ClN3OSi
